US07595327B2
To the solution of 374 mg of trans-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylic acid in 3 mL of toluene was added 0.88 mL of N,N-dimethylformamide di-tert-butyl acetal. The solution was refluxed for 4 hr. After removal of the volatile material in vacuo, 131 mg of tert-butyl trans-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylate was obtained in 33% yield after flash column chromatography. MS: 511.2 (M+H)+

reactant | trans-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylic acid | 374 mg | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)O | C24H26N2O5S
reactant | N,N-dimethylformamide di-tert-butyl acetal | 0.88 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl trans-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclohexanecarboxylate | 131 mg, 33% yield | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)OC(C)(C)C | C28H34N2O5S
